US04772704
5-Amino-2-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}-4(3H)-pyrimidone
To a solution of 2-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}-5-nitro-4(3H)-pyrimidone (4.26 g; 12.05 mmoles) in 50 ml of 2-methoxyethanol containing 1.55N methanolic HCl (7.75 ml; 12.01 meq.) was added a catalytic amount of Raney nickel No. 28 (approximately 2.8 cm3), and the mixture was hydrogenated in a Parr apparatus at 50 psi for 1.25 hours. The reaction mixture was filtered, treated with 20 ml of 1.55N methanolic HCl and evaporated under reduced pressure. The residue was placed on 190 g of silica gel and chromatographed by flash chromatography using CH3OH:CH3CN:NH4OH (20:80:1) as eluent. The appropriate fractions were combined and evaporated to dryness. The residue was dissolved in 25 ml (38.8 meq.) of 1.55N methanolic HCl, evaporated under reduced pressure and dried under high vacuum at 56° C. to give 3.53 g of the title compound as a trihydrochloride, mp 127°-132° C.

reactant | 2-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}-5-nitro-4(3H)-pyrimidone | 12.05 mmoles, 4.26 g | CN(C)CC1=CC=C(O1)CSCCNC1=NC=C(C(N1)=O)[N+](=O)[O-] | C14H19N5O4S
reactant | 2-methoxyethanol | 1.55N, 50 ml, 12.01 meq. | COCCO | C3H8O2
reactant | HCl | 1.55N, 25 ml, 38.8 meq. | Cl | ClH
catalyst | Raney nickel | [Ni] | Ni
product | 5-Amino-2-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}-4(3H)-pyrimidone | 3.53 g | NC=1C(NC(=NC1)NCCSCC=1OC(=CC1)CN(C)C)=O | C14H21N5O2S
